US07807709B2
B. (3S*,4R*)-3-{[(2-Carboxy-2-methyl-propoxycarbonyl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of (3S*,4R*)-3-{[cyclopropyl-(2-methoxycarbonyl-2-methyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (290 mg, 0.42 mmol) and LiOH•H2O (44 mg, 1.05 mmol) in H2O (2 mL) and THF (6 mL) is stirred at RT for 3 d. After evaporation of the solvent 1N HCl is added and the mixture is extracted with ethyl acetate. Drying (Na2SO4) of the combined extracts, filtration and evaporation of the solvent affords the title compound which is used without further purification. MS (LC-MS): 578.0 [M+H-Boc]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 10-100% CH3CN/H20/5 min, 100% CH3CN/3 min, CH3CN and H2O containing 0.1% TFA, flow: 1.5 ml/min): 5.44 min.

reactant | (3S*,4R*)-3-{[cyclopropyl-(2-methoxycarbonyl-2-methyl-propoxycarbonyl)-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.42 mmol, 290 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C(=O)OCC(C)(C)C(=O)OC)C1CC1 | C36H57N3O10
reactant | LiOH•H2O | 1.05 mmol, 44 mg | O[Li].O
solvent | H2O | 2 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (3S*,4R*)-3-{[(2-Carboxy-2-methyl-propoxycarbonyl)-cyclopropyl-amino]-methyl}-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CN(C1CC1)C(=O)OCC(C)(C)C(=O)O | C35H55N3O10
